US04968702
3-Amino-2-(2',4'-difluoro[1,1'-biphenyl]-4-yl)-4-quinolinecarboxylic acid
A basic aqueous solution of 3.5 g of isatin in water was reacted with 9.3 g of 2-amino-1-(2',4'-difluoro[1,1'-biphenyl]-4-yl)ethanone hydrochloride by the procedure described in example 20, giving 2.8 g of the desired compound as a yellow solid, mp 244°-247° C.

reactant | isatin | 3.5 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | 2-amino-1-(2',4'-difluoro[1,1'-biphenyl]-4-yl)ethanone hydrochloride | 9.3 g | Cl.NCC(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F
reactant | water | O | H2O
product | 3-Amino-2-(2',4'-difluoro[1,1'-biphenyl]-4-yl)-4-quinolinecarboxylic acid | 2.8 g | NC=1C(=NC2=CC=CC=C2C1C(=O)O)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F | C22H14F2N2O2
